US03997506
In a glass autoclave cooled at -30° C there were charged 34.0 g of colchicine, 6.7 g of p-toluene-sulfonic acid and 208 g of methylmercaptan. The temperature is raised up to +20° C, which causes the internal pressure of the autoclave to reach about 3 atmospheres. The reaction mixture is maintained under stirring for 10 days in the absence of light. The methylmercaptan in excess is distilled off between 20° and 40° C and the residue is treated by 670 ml of chloroform. The solution thus obtained is filtered and the filtrate is neutralized using hydrogen sodium carbonate after having added thereto 270 ml of water. The aqueous phase is separated and extracted three times with fresh chloroform. The chloroform extracts are combined, dried and evaporated. The solid residue (43 g) is dissolved in 150 ml of ethyl acetate and a few thiocolchicine crystals (obtained in a preliminary experiment) are introduced into the solution in order to initiate the crystallization. 16.0 g of thiocolchicine are collected in this manner. The mother-liquors are evaporated to give 21 g of an impure product which is subjected to a purification step by column chromatography using neutral alumina (activity I) as absorbent and chloroform as eluant. 7.1 g are thus recovered. The total amount of the desired product is 23.1 (yield: 65 %). Said yields may be improved by chromatographic purification of the above crystallization mother-liquors. The product melts at 192° C and has a specific rotation [α]D20 equal to -229° (in chloroform; concentration: 0.524 gr/l).

reactant | colchicine | 34.0 g | CC(=O)N[C@H]1CCC=2C=C(C(=C(C2C3=CC=C(C(=O)C=C13)OC)OC)OC)OC | C22H25NO6
reactant | p-toluene-sulfonic acid | 6.7 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | methylmercaptan | 208 g | CS | CH4S
product | thiocolchicine | CC(=O)N[C@H]1CCC2=CC(=C(C(=C2C3=CC=C(C(=O)C=C13)SC)OC)OC)OC | C22H25NO5S
